US05880188
Preparation of 7-fluoro-1,3-dihydro-1-hydroxy-2,1-benzoxaborole
3-fluorobenzyl alcohol (3.5 parts; 0.028M) was stirred in THF (100 ml) containing tetramethylene ethylenediamine (10.2 ml; 0.067M). After cooling to -78° C., sec-butyl-lithium (77 ml of 0.8M solution in cyclohexane ex Aldrich; 0.061M) was slowly added over 45 min at between -78° and -65° C. with stirring under a nitrogen blanket. After 1 hour at -78° C., tributyl borate (16.78 ml; 0.061M) was added dropwise and the reactants stirred under nitrogen for 16 hrs allowing the temperature to slowly raise to 20° C. Dilute hydrochloric acid was added to bring the pH to about 12 and the aqueous phase separated and washed with diethylether. The pH of the aqueous phase was then acidified to about pH 2 with hydrochloric acid and extracted with ether (3×100 ml). These ether extracts were washed with saturated brine, dried over magnesium sulphate and the ether evaporated whereupon the product separated as a pale solid (2.6 parts; 62% theory) mp=132°-134° C. after recrystallisation from aqueous methanol.

reactant | 3-fluorobenzyl alcohol | 0.028M | FC=1C=C(CO)C=CC1 | C7H7FO
reactant | sec-butyl-lithium | 0.8M, 77 ml | C(C)(CC)[Li]
reactant | tributyl borate | 0.061M, 16.78 ml | B(OCCCC)(OCCCC)OCCCC | C12H27BO3
reactant | hydrochloric acid | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 7-fluoro-1,3-dihydro-1-hydroxy-2,1-benzoxaborole | FC1=CC=CC=2COB(C21)O | C7H6BFO2
